US04407745
In 300 ml of tetrahydrofuran is dissolved 49.0 g (100 millimoles) of Z-Arg(Mts)-OH, and 11 ml of N-methylmorpholine is added to the solution and the mixture is stirred at -5° C. for 5 minutes. Then, 9.6 ml of ethyl chloroformate is added to the mixture, and a cooled solution of 39.4 g (100 millimoles) of Tos-OH.H-Leu-OBzl and 11 ml of N-methylmorpholine in dimethylformamide is added to the above mixture. The resulting mixture is stirred at -5° to 0° C. for 4 hours and concentrated under reduced pressure. The residue is dissolved in 700 ml of ethyl acetate, and the solution is washed with 0.1 N aqueous hydrochloric acid, 1 N aqueous NaHCO3 and water and concentrated under a reduced pressure to obtain 52 g of intended Z-Arg(Mts)-Leu-OBzl (the yield being 75%) like oil.

reactant | Z-Arg(Mts)-OH | 100 millimoles, 49.0 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(C)C=C1C)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H30N4O6S
reactant | N-methylmorpholine | 11 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 9.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | Tos-OH | 100 millimoles, 39.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)O | C7H8O3S
reactant | H-Leu-OBzl | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | N-methylmorpholine | 11 ml | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Z-Arg(Mts)-Leu-OBzl | 52 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(C)C=C1C)=N)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C36H47N5O7S
